US04250085
In a manner analogous to that described in Example 5(A)(iii), from the monobenzylamine salt of (1R)-1-[(N-benzyloxycarbonyl-L-alanyl-L-norvalyl)amino]-ethylphosphonic acid there was obtained (1R)-1-(L-alanyl-L-norvalylamino)-ethylphosphonic acid of melting point 268°-270° C.; [α]D20 =-50.4°; [α]36520 =-201° (c=0.46%, a freshly prepared solution in 1-N sodium hydroxide).

reactant | monobenzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | (1R)-1-[(N-benzyloxycarbonyl-L-alanyl-L-norvalyl)amino]-ethylphosphonic acid | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)N[C@@H](CCC)C(=O)N[C@@H](C)P(O)(O)=O | C18H28N3O7P
product | (1R)-1-(L-alanyl-L-norvalylamino)-ethylphosphonic acid | N[C@@H](C)C(=O)N[C@@H](CCC)C(=O)N[C@@H](C)P(O)(O)=O | C10H22N3O5P
